US05889026
A mixture of 4-benzyloxy benzoic acid (5.0 g, 21.9 mmol), 1,1,-carbonyl-diimidazole (3.6 g, 1.05 eq.) and DMF (50 ml) was stirred at 50° C. for 1 h. After cooling to r.t., 3-chloropropylamine hydrochloride (3.4 g, 26.1 mmol) and sodium carbonate (3.5 g, 32.0 mmol) were added and stirring continued for 45 min. After the addition of water, the mixture was extracted with ether. The organic layer was dried (Na2SO4), filtered and evaporated to give 4-benzyloxy-N-(3-chloro-propyl)-benzamide (5.44 g, 85%) as a white solid. MS: me/e=304 (M+H)+.

reactant | 4-benzyloxy benzoic acid | 21.9 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | carbonyl-diimidazole | 3.6 g, 1.05 eq. | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-chloropropylamine hydrochloride | 26.1 mmol, 3.4 g | Cl.ClCCCN
reactant | sodium carbonate | 32.0 mmol, 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxy-N-(3-chloro-propyl)-benzamide | 5.44 g, 85% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCCCCl)C=C1 | C17H18ClNO2
